US07655803B2
In a 100 ml Schlenk flask, 16.27 g (0.129 moles) of dimethyl sulfate was slowly added dropwise to 12.40 g (0.129 moles) of ethylimidazole with ice cooling and under a blanket gas. Stirring of the mixture was continued at room temperature over night. After the addition of 30.92 g (0.258 moles; 2 equ.) of diethylene glycol monomethyl ether, the volatile fractions were removed in a distillation apparatus at 160° C. for 5 hours. After drying the mixture in a high vacuum, 1-methyl-3-ethylimidazolium 2-(2-methoxyethoxy)ethyl sulfate was obtained as a low-viscous, slightly yellow liquid in quantitative yield.

reactant | dimethyl sulfate | 0.129 moles, 16.27 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ethylimidazole | 0.129 moles, 12.40 g | C(C)C=1NC=CN1 | C5H8N2
reactant | diethylene glycol monomethyl ether | 0.258 moles, 30.92 g | COCCOCCO | C5H12O3
product | 1-methyl-3-ethylimidazolium 2-(2-methoxyethoxy)ethyl sulfate | quantitative yield | COCCOCCOS(=O)(=O)[O-].C[N+]1=CN(C=C1)CC | InChI=1S/C6H11N2.C5H12O6S/c1-3-8-5-4-7(2)6-8;1-9-2-3-10-4-5-11-12(6,7)8/h4-6H,3H2,1-2H3;2-5H2,1H3,(H,6,7,8)/q+1;/p-1
